US07767675B2
Step 2. 6-{1-[6-(1H-pyrazol-1-yl)imidazo[1,2-a]pyrimidin-3-yl]cyclopropyl}quinoline
A mixture of 5-(1H-pyrazol-1-yl)pyrimidin-2-amine (0.08 g, 0.5 mmol) and chloro(1-quinolin-6-ylcyclopropyl)acetaldehyde (0.1 g, 0.5 mmol) in isopropanol (15 mL) was heated at 90° C. overnight. After cooling, the mixture was purified by RP-HPLC (pH 10) to afford the desired product. LCMS: (M+H)=353.1.

reactant | 5-(1H-pyrazol-1-yl)pyrimidin-2-amine | 0.5 mmol, 0.08 g | N1(N=CC=C1)C=1C=NC(=NC1)N | C7H7N5
reactant | chloro(1-quinolin-6-ylcyclopropyl)acetaldehyde | 0.5 mmol, 0.1 g | ClC(C=O)C1(CC1)C=1C=C2C=CC=NC2=CC1 | C14H12ClNO
solvent | isopropanol | 15 mL | C(C)(C)O | C3H8O
product | 6-{1-[6-(1H-pyrazol-1-yl)imidazo[1,2-a]pyrimidin-3-yl]cyclopropyl}quinoline | N1(N=CC=C1)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2 | C21H16N6
